US09334278B2
To a solution of N-tert-butyl-2-(5-methylpyrazin-2-ylamino)-5-((2-(trimethylsilyl)ethoxy)methyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide (72 mg, 158 mol) in dichloromethane (2.5 mL) was added trifluoroacetic acid (360 mg, 243 μL, 3.16 mmol) and stirred at room temperature for 16 h. The reaction mixture was concentrated in vacuo and the residue obtained diluted with dichloromethane (2.5 mL), methanol (1.2 mL) and ammonium hydroxide (0.35 mL) and the mixture stirred at room temperature for 1 h. The mixture was concentrated and triturated with water. The solid was collected by filtration and washed with water and ether to give N-tert-butyl-2-(5-methylpyrazin-2-ylamino)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide (26 mg, 79.9 mol, 51%) as a light green solid. 1H NMR (400 MHz, DMSO-d) δ ppm: 12.45 (s, 1H), 10.12 (s, 1H), 9.17 (d, J=1.5, 1 H), 8.40 (s, 1H), 8.21 (s, 1H), 8.10 (d, J=3.2, 1 H), 7.73 (s, 1H), 2.42 (s, 3H), 1.46 (s, 9H); MS (EI/CI) m/z: 326.1 [M+H].

reactant | N-tert-butyl-2-(5-methylpyrazin-2-ylamino)-5-((2-(trimethylsilyl)ethoxy)methyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide | 158 mol, 72 mg | C(C)(C)(C)NC(=O)C1=CN(C2=NC=C(N=C21)NC2=NC=C(N=C2)C)COCC[Si](C)(C)C | C22H33N7O2Si
reactant | trifluoroacetic acid | 3.16 mmol, 243 μL, 360 mg | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 2.5 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 2.5 mL | ClCCl | CH2Cl2
solvent | methanol | 1.2 mL | CO | CH4O
solvent | ammonium hydroxide | 0.35 mL | [OH-].[NH4+]
product | N-tert-butyl-2-(5-methylpyrazin-2-ylamino)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide | 79.9 mol, 26 mg, 51% | C(C)(C)(C)NC(=O)C1=CNC2=NC=C(N=C21)NC2=NC=C(N=C2)C | C16H19N7O
